US09399640B2
Step 5. 5-Bromo-4-(cyclopropylmethoxy)-1-methyl-1H-indazole
A solution of 5-bromo-1-methyl-1H-indazol-4-ol (73.7 mg, 0.324 mmol) and cyclopropyl carbinol (0.0386 mL, 0.489 mmol) in tetrahydrofuran (2.80 mL) was treated with triphenylphosphine (0.102 g, 0.390 mmol), cooled to 0° C., followed by dropwise addition of diisopropyl azodicarboxylate (0.0767 mL, 0.390 mmol). Reaction mixture was warmed to RT and stirred at RT for 16 h. The reaction mixture was poured into saturated sodium bicarbonate solution and extracted with ethyl acetate. Layers were separated and the organic layer was washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo to give the crude product. Purification by flash column chromatography (100% hexanes to 100% CH2Cl2) gave the desired product (72 mg, 78%) as a yellow solid. LCMS calculated for C12H14BrN2O (M+H)+: m/z=281.0, 283.0. found: 281.0, 283.0.

reactant | 5-bromo-1-methyl-1H-indazol-4-ol | 0.324 mmol, 73.7 mg | BrC1=C(C=2C=NN(C2C=C1)C)O | C8H7BrN2O
reactant | cyclopropyl carbinol | 0.489 mmol, 0.0386 mL | C1(CC1)CO | C4H8O
reactant | triphenylphosphine | 0.390 mmol, 0.102 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.390 mmol, 0.0767 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 2.80 mL | O1CCCC1 | C4H8O
product | 5-Bromo-4-(cyclopropylmethoxy)-1-methyl-1H-indazole | 72 mg, 78% | BrC=1C(=C2C=NN(C2=CC1)C)OCC1CC1 | C12H13BrN2O
